US07015218B1
N-(4-Chloro-3-nitrophenyl)-1-(4-chlorophenyl)-5-methylpyrazole-4-carboxamide
1-(4-Chlorophenyl)-5-methylpyrazole-4-carboxylic chloride (1.7 g) was added to a pyridine solution of 4-chloro-3-nitroaniline (1 g) and the mixture was stirred at room temperature for 2 h. After the reaction, water was added and the precipitated solid was collected by filtration to give the title compound (2.1 g), melting point:221–225° C.

reactant | 1-(4-Chlorophenyl)-5-methylpyrazole-4-carboxylic chloride | 1.7 g | ClC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)Cl | C11H8Cl2N2O
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | 4-chloro-3-nitroaniline | 1 g | ClC1=C(C=C(N)C=C1)[N+](=O)[O-] | C6H5ClN2O2
solvent | water | O | H2O
product | N-(4-Chloro-3-nitrophenyl)-1-(4-chlorophenyl)-5-methylpyrazole-4-carboxamide | 2.1 g | ClC1=C(C=C(C=C1)NC(=O)C=1C=NN(C1C)C1=CC=C(C=C1)Cl)[N+](=O)[O-] | C17H12Cl2N4O3
